US06002008
4-(3-Hydroxy-4-methoxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 367, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 10 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 167.0 mg (1.2 mmol) of 5-amino-2-methoxyphenol to give 313.3 mg (89.3%) of the product as a gray solid, m.p. 254-256° C., mass (electrospray, m/e): M+H351.2.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 5-amino-2-methoxyphenol | 1.2 mmol, 167.0 mg | NC=1C=CC(=C(C1)O)OC | C7H9NO2
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(3-Hydroxy-4-methoxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 313.3 mg, 89.3% | OC=1C=C(C=CC1OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C19H17N3O4
